US06784323B2
(R)-2-(1-Methyl-1H-indol-3-yl)-4-oxo butyric acid methyl ester (Table 2, entry 6):
Prepared according to the general procedure from methyl 4-oxo-butenoate (171 mg, 1.50 mmol), 1-methyl-1H-indole (64 μL, 0.50 mmol), TFA (7.7 μL, 0.10 mmol) and (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one (24.6 mg, 0.100 mmol) in CH2Cl2 (0.90 mL) and isopropanol (0.10 mL) at −85° C. for 21 h to provide, after silica gel chromatography (5:47:47 acetone/CH2Cl2/hexanes), the title compound as a colorless oil (109 mg, 89% yield, 91% ec). IR (film) 2937, 2833, 2729, 1732, 1623, 1545, 1477, 1436, 1379, 1332, 1228, 1171, 1042, 1016, 980, 773, 742 cm−1; 1H NMR (300 MHz, CDCl3) δ 9.81 (s, 1H, CHO), 7.67 (d, J=8.4 Hz, 1H, ArH), 7.33-7.23 (m, 2H, ArH), 7.15 (ddd, J=1.2, 7.6, 7.8 Hz, 1H, ArH), 6.98 (s, 1H, NCH), 4.44 (dd, J=5.4, 9.3 Hz, 1H, ArH), 3.76 (s, 3H, NCH3), 3.69 (s, 3H, OCH3), 3.47 (dd, J=9.3, 18.6 Hz, 1H, CH2CO); 2.94 (dd, J=5.1, 18.3 Hz, 1H, CH2CO); 13C NMR (75 MHz, CDCl3) δ 200.1, 173.8, 137.0, 126.9, 126.5, 122.1, 119.5, 119.1, 110.8, 109.6, 52.5, 46.8, 36.5, 33.0; HRMS (CI) exact mass calcd for (C14H15NO3) requires m/z 245.1048, found m/z 153.1151. [α]D=−123.6 (c=1.0, CHCl3). The enantiomeric ratio was determined by HPLC analysis of the alcohol, obtained by NaBH4 reduction of the aldehyde, using a Chiracel AS and AS guard column (3:97 isopropanol/hexanes, 1 mL/min); S isomer tr=71.7 min and R isomer tr=76.3 min.

reactant | methyl 4-oxo-butenoate | 1.50 mmol, 171 mg | O=CC=CC(=O)OC | C5H6O3
reactant | 1-methyl-1H-indole | 0.50 mmol, 64 μL | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | TFA | 0.10 mmol, 7.7 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one | 0.100 mmol, 24.6 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C(C)(C)C)C)=O | C15H22N2O
solvent | CH2Cl2 | 0.90 mL | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 0.10 mL | C(C)(C)O | C3H8O
product | (R)-2-(1-Methyl-1H-indol-3-yl)-4-oxo butyric acid methyl ester | 109 mg, 89% yield | COC([C@H](CC=O)C1=CN(C2=CC=CC=C12)C)=O | C14H15NO3
